US06423725B1
1-(2-Aminoethyl)-3-[1-(1-phenylcycloheptyl)-4-piperidinyl]-1,3-dihydro-2H -benzimidazol-2-one dihydrochloride
A mixture of t-butyl N-(2-{2-oxo-3-[1-(1-phenylcycloheptyl)-4-piperidyl]-2,3-dihydro-1H-benzimidazol-1-yl}ethyl)carbamate (35 mg, 0.0657 mmol, this was prepared as Preparation 18) and HCl solution in MeOH (2 ml) was stirred at room temperature for 15 h. The reaction mixture was concentrated in vacuo to give 33.2 mg (100%) of white solid.

reactant | t-butyl N-(2-{2-oxo-3-[1-(1-phenylcycloheptyl)-4-piperidyl]-2,3-dihydro-1H-benzimidazol-1-yl}ethyl)carbamate | O=C1N(C2=C(N1CCNC(OC(C)(C)C)=O)C=CC=C2)C2CCN(CC2)C2(CCCCCC2)C2=CC=CC=C2 | C32H44N4O3
reactant | HCl | Cl | ClH
solvent | MeOH | 2 ml | CO | CH4O
product | 1-(2-Aminoethyl)-3-[1-(1-phenylcycloheptyl)-4-piperidinyl]-1,3-dihydro-2H -benzimidazol-2-one dihydrochloride | 33.2 mg, 100% | Cl.Cl.NCCN1C(N(C2=C1C=CC=C2)C2CCN(CC2)C2(CCCCCC2)C2=CC=CC=C2)=O | InChI=1S/C27H36N4O.2ClH/c28-18-21-30-24-12-6-7-13-25(24)31(26(30)32)23-14-19-29(20-15-23)27(16-8-1-2-9-17-27)22-10-4-3-5-11-22;;/h3-7,10-13,23H,1-2,8-9,14-21,28H2;2*1H
